US05998617
Benzo(A)phenazine was prepared with 1,2-phenylenediamine and 1,2-naphthoquinone, using standard condensation conditions.

reactant | 1,2-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 1,2-naphthoquinone | C1(C(C=CC2=CC=CC=C12)=O)=O | C10H6O2
product | Benzo(A)phenazine | C1=CC=CC=2C1=C1N=C3C=CC=CC3=NC1=CC2 | C16H10N2
